US08193239B2
(i) (S)-tert-Butyl 1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamate
(S)-2-(tert-Butoxycarbonylamino)-3-(4-iodophenyl)propanoic acid (35.1 g) was dissolved in DMF (200 mL) and to the resulting solution was added N-ethylmorpholine (17.0 mL) followed by TBTU (28.8 g). The mixture was stirred at room temperature for 0.5 h and then cooled to 0° C. 0.88 Ammonia (11.1 mL) was added and the mixture was allowed to warm to room temperature. The mixture was allowed to stir at room temperature for 16 h and was then poured into water and the resulting precipitate removed by filtration. The solid was dried in vacuo to give the sub-titled compound (34.2 g).

reactant | (S)-2-(tert-Butoxycarbonylamino)-3-(4-iodophenyl)propanoic acid | 35.1 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)I | C14H18INO4
reactant | N-ethylmorpholine | 17.0 mL | C(C)N1CCOCC1 | C6H13NO
reactant | TBTU | 28.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Ammonia | 11.1 mL | N | H3N
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-tert-Butyl 1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamate | 34.2 g | NC([C@H](CC1=CC=C(C=C1)I)NC(OC(C)(C)C)=O)=O | C14H19IN2O3
